US08030486B2
2,5-Dimethoxytetrahydrofuran (7.4 g) and 2.5% aqueous acetic acid (50 g) were added to ethyl (2R)-2-amino-2-ethoxycarbonylsuccinimide (10 g) and the mixture was stirred at 70° C. for 1.5 hours. The reaction solution was cooled and insoluble materials were dissolved by addition of ethyl acetate (50 ml) and stirring. The mixture was placed for a while and the organic layer was separated from the aqueous layer, washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo, diisopropylether (37 g) and ethyl acetate (9.2 g) were added to the residue and diisopropylamine (6.2 g) was added and the mixture was stirred at 0-5° C. of inner temperature. The precipitated crystals were filtered, washed with diisopropylether and dried to give (2R)-2-ethoxycarbonyl-2-(pyrrol-1-yl)succinimide diisopropylamine salt (yield 88%).

reactant | 2,5-Dimethoxytetrahydrofuran | 7.4 g | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 50 g | C(C)(=O)O | C2H4O2
reactant | ethyl (2R)-2-amino-2-ethoxycarbonylsuccinimide | 10 g | C(C)C1[C@@](C(=O)NC1=O)(C(=O)OCC)N | C9H14N2O4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-2-ethoxycarbonyl-2-(pyrrol-1-yl)succinimide diisopropylamine salt | yield 88% | C(C)(C)NC(C)C.C(C)OC(=O)[C@@]1(C(=O)NC(C1)=O)N1C=CC=C1 | InChI=1S/C11H12N2O4.C6H15N/c1-2-17-10(16)11(13-5-3-4-6-13)7-8(14)12-9(11)15;1-5(2)7-6(3)4/h3-6H,2,7H2,1H3,(H,12,14,15);5-7H,1-4H3/t11-;/m1./s1
